US08212045B2
POCl3 (12.9 ml, 141.2 mmol) was added to DMF (10.9 ml, 141.2 mmol) at 0° C. The reaction was immediately warmed to ambient temperature and stirred for 30 minutes. ((2,2-diethoxyethoxy)methyl)benzene (10.6 g, 47.1 mmol) was added as a solution in 80 mL of chloroform. The solution was stirred at 75° C. for 3.5 hours. The solution was cooled, poured over ice water, and neutralized with Na2CO3. The residue was extracted with chloroform and the organic layer was dried with Na2SO4 and concentrated. The residue was re-dissolved in MeOH (450 mL). NaOMe (25% in MeOH, 58 ml, 253 mmol) was added followed by 2-hydrazinylethanol (10.6 g, 139 mmol). The reaction stirred overnight at ambient temperature. The material was concentrated in vacuo followed by dilution with saturated NH4Cl solution. The material was extracted with EtOAc, dried (Mg2SO4), and concentrated. Flash chromatography gave 2-(4-(benzyloxy)-1H-pyrazol-1-yl)ethanol (1.81 g, 13% yield).

reactant | POCl3 | 141.2 mmol, 12.9 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 141.2 mmol, 10.9 ml | CN(C)C=O | C3H7NO
reactant | ((2,2-diethoxyethoxy)methyl)benzene | 47.1 mmol, 10.6 g | C(C)OC(COCC1=CC=CC=C1)OCC | C13H20O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOMe | 253 mmol, 58 ml | C[O-].[Na+]
reactant | 2-hydrazinylethanol | 139 mmol, 10.6 g | N(N)CCO | C2H8N2O
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-(benzyloxy)-1H-pyrazol-1-yl)ethanol | 1.81 g, 13% yield | C(C1=CC=CC=C1)OC=1C=NN(C1)CCO | C12H14N2O2
